US05455252
A solution of trimethylborate in 200 mL of ethyl acetate was cooled to -65° C. 3-Chlorobenzene magnesium chloride (0.8M, 60 mL), i.e., a grignard reagent, was added to the solution in a dropwise manner over 20 minutes. The mixture was kept in the temperature range of -60° C. to -70° C. and stirred. After 30 minutes, the mixture was allowed to warm to 0° C. and stirred for 1 hour. The mixture was quenched with H2O (25 mL) and stirred at room temperature for 1 hour. The solvent was removed and the remaining mass was extracted ethyl ether (3×100 mL). The organic layers were combined and washed with H2O (2×50 mL), dilute HCl (2×100 mL), H2O (2×50 mL) and brine (1×50 mL). The organic layer was dried with MgSO4, concentrated and allowed to stand. 100 mL of hexanes was added and the solution was stirred for 1 hour. The solution was filtered and allowed to air dry yielding 4.6 g of 3-chlorobenzene boronic acid as a white solid.

reactant | trimethylborate | COB(OC)OC | C3H9BO3
reactant | 3-Chlorobenzene magnesium chloride | 0.8M, 60 mL | [Cl-].[Mg+2].ClC=1C=CC=CC1.[Cl-]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-chlorobenzene boronic acid | 4.6 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
